US09120749B2
Methyl 3-(4-bromophenylamino)-2-(cyclopropanecarbonyl)acrylate
A stirred mixture of methyl 3-cyclopropyl-3-oxopropanoate (20 g, 0.141 mol), triethyl orthoformate (28 mL, 0.169 mol), and 4-bromoaniline (24.2 g, 0.141 mol) were heated at 130° C. for 5 h with a Dean Stark trap. After this time the reaction was cooled to room temperature, diluted with methylene chloride and filtered through a pad of silica. The filtrate was concentrated to afford the desired product (26.5 g, 55%) as a yellow solid: ESI MS m/z 324 [C14H14BrNO2+H]+.

reactant | methyl 3-cyclopropyl-3-oxopropanoate | 0.141 mol, 20 g | C1(CC1)C(CC(=O)OC)=O | C7H10O3
reactant | triethyl orthoformate | 0.169 mol, 28 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | 4-bromoaniline | 0.141 mol, 24.2 g | BrC1=CC=C(N)C=C1 | C6H6BrN
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methyl 3-(4-bromophenylamino)-2-(cyclopropanecarbonyl)acrylate | 26.5 g, 55% | BrC1=CC=C(C=C1)NC=C(C(=O)OC)C(=O)C1CC1 | C14H14BrNO3
